US08026257B2
(6-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d][1,2,3]triazol-4-yl)methanol.
To a solution of 6-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d][1,2,3]triazole-4-carbaldehyde (165 mg, 0.478 mmol) in ethanol (5 mL) at 0° C. was added sodium borohydride (18.1 mg, 0.48 mmol). The ice bath was removed. After 15 min, the reaction was recooled to 0° C., quenched by the cautious addition of saturated ammonium chloride, and poured into ether. The ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated to give 165 mg (99%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ 7.91 (s, 1H), 7.67 (s, 1H), 6.02 (s, 2H), 5.30 (s, 2H), 3.70 (s, 1H), 3.56 (m, 2H), 0.89 (m, 2H), −0.09 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 145.6, 135.1, 132.3, 130.4 (q, J=33 Hz), 124.0 (q, J=273 Hz), 118.5 (q, J=2.9 Hz), 107.4 (q, J=4.8 Hz), 77.3, 67.6, 61.0, 17.7, −1.5.

reactant | 6-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d][1,2,3]triazole-4-carbaldehyde | 0.478 mmol, 165 mg | FC(C=1C=C(C2=C(N(N=N2)COCC[Si](C)(C)C)C1)C=O)(F)F | C14H18F3N3O2Si
reactant | sodium borohydride | 0.48 mmol, 18.1 mg | [BH4-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (6-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d][1,2,3]triazol-4-yl)methanol | FC(C=1C=C(C2=C(N(N=N2)COCC[Si](C)(C)C)C1)CO)(F)F | C14H20F3N3O2Si
